US05827865
3-[4-[2-[N-(2-Benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-methoxypropanoic acid
A mixture of ethyl 3-[4-[2-[N-(2-benzoxazolyl)-N-methylamino)ethoxy]-phenyl]-2-methoxypropanoate (1.5 g), 10% aqueous sodium hydroxide solution (7.5 mL) and methanol (23 mL) was stirred for 1.5 hrs at room temperature and then diluted with water (600 mL), washed with dichloromethane (300 mL) and acidified to pH2 with concentrated hydrochloric acid. The mixture was extracted with ethyl acetate (3×300 mL) and the combined ethyl acetate solutions washed with water (2×200 mL) and brine (200 mL), dried (MgSO4) and evaporated. The residue was crystallised from ethyl acetate-dichloromethane-hexane to afford the title compound, mp 150°-153° C.

reactant | ethyl 3-[4-[2-[N-(2-benzoxazolyl)-N-methylamino)ethoxy]-phenyl]-2-methoxypropanoate | 1.5 g | O1C(=NC2=C1C=CC=C2)N(C)CCOC2=CC=C(C=C2)CC(C(=O)OCC)OC | C22H26N2O5
reactant | sodium hydroxide | 7.5 mL | [OH-].[Na+]
reactant | methanol | 23 mL | CO | CH4O
solvent | water | 600 mL | O | H2O
product | 3-[4-[2-[N-(2-Benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-methoxypropanoic acid | O1C(=NC2=C1C=CC=C2)N(C)CCOC2=CC=C(C=C2)CC(C(=O)O)OC | C20H22N2O5
